US07067506B2
Step 4: 3-(3-Dimethylamino-propoxy)-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid.
To a stirred solution of 3-(3-dimethylamino-propoxy)-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester (1.0 gm; 3.3 mmol) in methanol (25 mL) was added lithium hydroxide (5 mL of a 2M aqueous solution). The reaction was heated to 60 degrees and stirred for 12 hours. The reaction was allowed to cool to room temperature and the pH was adjusted to 5.5 with 1N hydrochloric acid. A precipitate formed which was filtered and dried under reduced pressure to yield the desired product as a tan solid (52% yield). 1H-NMR (400 MHz, d6-DMSO) δ8.62 (br s, 1H), 8.39 (d, 1H, 8.21 (s, 1H), 7.59 (d, 1H), 7.43 (s, 1H), 4.15 (t, 2H), 2.42 (m, 5H), 2.18 (s, 6H), 2.01 (m, 2H).

reactant | 3-(3-dimethylamino-propoxy)-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester | 3.3 mmol, 1.0 gm | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OCCCN(C)C)=O | C19H25N5O4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 3-(3-Dimethylamino-propoxy)-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid | 52% yield | CN(CCCOC=1C=C(C(=O)O)C=CC1NC(=O)NC1=NC=C(N=C1)C)C | C18H23N5O4
